US06727264B1
3-(2,6-DICHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-5-METHYL-4-ISOXAZOLECARBOXAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 3-(2,6-dichlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride: 1H NMR (400 MHz, CDCl3) δ 7.50 (d, 1H, J=2.3 Hz), 7.48 (s, 1H), 7.4 (m, 1H), 7.39 (s, 1H), 7.37 (m, 2H), 7.24 (t, 1H, J=7.2 Hz), 6.92 (d, 1H, J=7.9 Hz), 6.06 (s, 1H), 3.31 (q, 2H, J=6.4 Hz), 2.94 (d, 2H, J=10.8 Hz), 2.79 (s, 3H), 2.53 (q, 1H, J=6.1), 2.47 (tt, 1H, J=4.2, 11.4 Hz), 2.29 (t, 2H, J=7.2 Hz), 1.99 (t, 2H, J=11.4 Hz), 1.81 (m, 2H), 1.69 (dt, 2H, J=2.4, 11.6), 1.59 (q, 2H, J=6.6 Hz), 1.24 (d, 6H, J=6.5 Hz); ESMS m/e: 557.0 (M+H)+.

reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
reactant | 3-(2,6-dichlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1C(=O)Cl)C | C11H6Cl3NO2
product | 3-(2,6-DICHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-5-METHYL-4-ISOXAZOLECARBOXAMIDE | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C | C29H34Cl2N4O3
